US08895544B2
N-(1-Benzyl-4,4-diethoxy-piperidin-3-yl)-6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxamidine
To a solution of N-(1-benzyl-4,4-diethoxy-piperidin-3-yl)-6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxamidine (Preparation 8, 7.28 g, 9.4 mmol) in ethanol (32 mL) was added concentrated hydrochloric acid (12M, 3.92 mL, 47 mmol) and the resulting solution was allowed to stir at room temperature for 18 hours. The reaction mixture was cooled to 0° C. and neutralised by dropwise addition of a saturated aqueous solution of sodium hydrogen carbonate (150 mL). The mixture was extracted with EtOAc (2×200 mL). The combined organic layers were washed with further saturated aqueous sodium hydrogen carbonate solution (100 mL), dried over MgSO4 and concentrated in vacuo to give the title compound as a foam (6.06 g).

reactant | N-(1-benzyl-4,4-diethoxy-piperidin-3-yl)-6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxamidine | 9.4 mmol, 7.28 g | C(C1=CC=CC=C1)N1CC(C(CC1)(OCC)OCC)NC(=N)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C(=C1)F)OCOCC[Si](C)(C)C)CC)C1OCCCC1 | C43H60FN5O5Si
reactant | hydrochloric acid | 47 mmol, 12M, 3.92 mL | Cl | ClH
reactant | sodium hydrogen carbonate | 150 mL | C(O)([O-])=O.[Na+]
solvent | ethanol | 32 mL | C(C)O | C2H6O
product | N-(1-Benzyl-4,4-diethoxy-piperidin-3-yl)-6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxamidine | 6.06 g | C(C1=CC=CC=C1)N1CC(C(CC1)(OCC)OCC)NC(=N)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C(=C1)F)O)CC)C1OCCCC1 | C37H46FN5O4
